US04636516
By following the same procedure as in Example 6 using 3.3 g of 2-amino-1-(3,5-di-tert-butyl-4-hydroxyphenyl)-1-butanone hydrochloride, 1.62 g of potassium isocyanate, and 1.6 ml of concentrated hydrochloric acid and recrystallizing the reaction product from aqueous isopropanol, 1.6 g of 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-ethyl-2-oxo-4-imidazoline was obtained.

reactant | 2-amino-1-(3,5-di-tert-butyl-4-hydroxyphenyl)-1-butanone hydrochloride | 3.3 g | Cl.NC(C(=O)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)CC
reactant | potassium isocyanate | 1.62 g | [N-]=C=O.[K+]
reactant | hydrochloric acid | 1.6 ml | Cl | ClH
product | 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-ethyl-2-oxo-4-imidazoline | 1.6 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1NC(NC1CC)=O | C19H28N2O2
